US05334576
Preparation of 6-methyl-5-methylamino-pyridine-2,3-dicarboxylic acid, diethyl ester
A solution of 90.6 g of 6-methyl-5-(N-methylacetamido)-pyridine-2,3-dicarboxylic acid, diethyl ester in 700 mL absolute ethanol is treated with 60 mL of concentrated hydrochloric acid, and the solution is heated at reflux for 17 hours. The reaction is cooled, 75 mL of concentrated hydrochloric acid is added, and the reaction is heated at reflux for another 8 hours. The solution is concentrated in vacuo; the residue is stirred in water and basified to pH 8 using a saturated bicarbonate solution. The mixture is then extracted with methylene chloride, and the extracts are dried and concentrated in vacuo to afford the desired product as an oil.

reactant | 6-methyl-5-(N-methylacetamido)-pyridine-2,3-dicarboxylic acid, diethyl ester | 90.6 g | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)N(C(C)=O)C | C15H20N2O5
reactant | hydrochloric acid | 60 mL | Cl | ClH
reactant | hydrochloric acid | 75 mL | Cl | ClH
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 6-methyl-5-methylamino-pyridine-2,3-dicarboxylic acid, diethyl ester | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)NC | C13H18N2O4
